data/mechanism_extracts/Tetrahedron/10.1016_j.tet.2008.12.068.json
{"doi": "10.1016_j.tet.2008.12.068", "journal": "Tetrahedron", "is_review": false, "rxn_class_summary": "Electrochemical fluoro-selenenylation of α,β-unsaturated esters and related electron-deficient olefins using PhSeSePh and Et3N·5HF as fluoride source in an undivided cell to give vicinal β-fluoro-α-phenylselenyl (and regioisomeric α-fluoro-β-phenylselenyl) esters.", "mechanism_family": ["mediator_anodic", "cation_initiated"], "electrochemical_role": "Anodic oxidation of PhSeSePh in the presence of fluoride generates an electrophilic [PhSeF] species, which adds to the olefin to form a seleniranium (episelenonium) cation that is opened by fluoride.", "key_intermediates": [{"name": "Electrophilic phenylselenenyl fluoride [PhSeF]", "smiles": "F[Se]c1ccccc1", "role": "reactive"}, {"name": "Seleniranium (episelenonium) ion from acrylate (1a)", "smiles": null, "role": "reactive"}, {"name": "α-PhSe-stabilized β-carbocation intermediate (more stable for 1a, leading to 2a)", "smiles": null, "role": "reactive"}, {"name": "β-PhSe / α-carbocation intermediate A (minor for 1a, leading to 3a)", "smiles": null, "role": "transient"}, {"name": "Seleniranium ion from crotonate (1c) opened to α-cation stabilized by α-PhSe (intermediate B)", "smiles": null, "role": "reactive"}, {"name": "Seleniranium from methacrylate (1b) opened to β-cation stabilized by α-methyl (more stable, leading to 3b)", "smiles": null, "role": "reactive"}], "electron_flow": "At the anode, PhSeSePh is oxidized in the presence of F− (from Et3N·5HF) to give an electrophilic [PhSeF] equivalent; this adds to the α,β-unsaturated ester to form a seleniranium ion, which is opened regioselectively by F− at the carbon best able to stabilize positive charge (α-PhSe stabilization or α-alkyl stabilization), delivering the vicinal F/SePh adduct.", "rate_determining_step": null, "probe_reagents": [], "evidence_types_used": ["product_isotope_distribution", "other"], "evidence_strength": "weak", "notes": "Regiochemistry is rationalized by relative stability of the cationic intermediate arising from seleniranium opening: with simple acrylate (1a) α-PhSe stabilization dominates giving 2a as major (β-F, α-SePh); with α-methyl substrates (methacrylate 1b) the tertiary β-carbocation stabilized by the α-methyl is favored, inverting regioselectivity toward 3b (α-F, β-SePh); crotonate (1c) gives exclusively 2c. No radical traps, CV, or DFT reported in these pages; mechanism is inferred from product distributions and substituent effects."}
